US07612075B2
A. (5′-Chloro-[2.2′]bithiophenyl-5-yl)-methanol.
To a solution of 5-chloro-[2,2′]bithiophenyl (3.00 g, 14.9 mmol) in 30 mL of THF at 0° C. is added n-BuLi (9.8 mL of a 1.6M solution in hexanes, 15.7 mmol) dropwise. DMF (2.30 mL, 30 mmol) is added dropwise and the resulting solution is heated at reflux for 1 hour. The solution is diluted with H2O and extracted with Et2O. The organic layer is washed with H2O and saturated NaCl solution, then dried over MgSO4, filtered and concentrated. The crude aldehyde is dissolved in 40 mL of anhydrous MeOH and sodium borohydride (0.85 g, 22.5 mmol) is added portionwise. The mixture is stirred at room temperature for 10 min, then quenched with water. The mixture is diluted with Et2O and the layers separated. The organic layer is washed with H2O, then dried over MgSO4, filtered and concentrated to yield the title compound (2.23 g, 9.66 mmol) which is used in the subsequent step without further purification. 1H NMR (CDCl3, 300 MHz) δ6.95 (d, 1H), 6.90 (m, 2H), 6.86 (d, 1H), 4.82 (s, 2H), 1.88 (bs, 1H).

reactant | 5-chloro-[2,2′]bithiophenyl | 14.9 mmol, 3.00 g | ClC1=CC=C(S1)C=1SC=CC1 | C8H5ClS2
reactant | n-BuLi | [Li]CCCC
reactant | DMF | 30 mmol, 2.30 mL | CN(C)C=O | C3H7NO
reactant | sodium borohydride | 22.5 mmol, 0.85 g | [BH4-].[Na+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
product | (5′-Chloro-[2.2′]bithiophenyl-5-yl)-methanol | 9.66 mmol, 2.23 g | ClC1=CC=C(S1)C=1SC(=CC1)CO | C9H7ClOS2
